* Z:\mnt\spice-netlists\LT1083_TA04.asc
R1 OUT N001 121
R2 N001 0 365
C1 OUT 0 150µ
C2 IN 0 10µ
V1 IN 0 PWL(0 0 1 30)
Rload OUT 0 .67
C3 N001 0 25µ
D1 OUT IN MMSD4148
XU1 N001 OUT IN LT1083
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1 startup
* LT1083 - 7.5A, 5A, 3A Low Dropout Positive Adjustable Regulators\n5V Regulator with Improved Ripple Rejection\nInput: 6V to 17V     Output: 5V @ 7.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LT1083.lib
.backanno
.end
